US08242058B2
BocNHCH2CH2Br (10.00 g, 44.62 mmol) was dissolved in DMF (200 mL). NaN3 (14.48 g, 223.1 mmol) was added, and the mixture was stirred at 110° C. for 12 h. The solvent was removed under reduced pressure, and the residue was dissolved in water (200 mL). The resulting aqueous solution was extracted with ethyl acetate (2×200 mL). The organic layers were combined and dried over anhydrous MgSO4(s). After filtering, the organic layer was concentrated under reduced pressure and the residue was dissolved in methylene chloride (10-20 mL) and purified by flash chromatography (silica gel, methylene chloride). BocNHCH2CH2N3 (6.60 g, 80%) was isolated as a colorless oil. HRMS (ESI) [M+Na]+ calcd for C7H14N4O2Na, 209.1014; found, 209.1010; 1H NMR (400 MHz, CDCl3) δ 4.88 (bs, 1H), 3.42 (t, J=5.3 Hz, 2H), 3.34-3.26 (m, 2H), 1.45 (s, 9H); 13C NMR (100 MHz, CDCl3) δ 155.8, 79.8, 51.4, 40.2, 28.5.

reactant | BocNHCH2CH2Br | 44.62 mmol, 10.00 g | C(=O)(OC(C)(C)C)NCCBr | C7H14BrNO2
reactant | NaN3 | 223.1 mmol, 14.48 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | BocNHCH2CH2N3 | 6.60 g, 80% | C(=O)(OC(C)(C)C)NCCN=[N+]=[N-] | C7H14N4O2
